US07196099B2
2-[(Morpholine-4-carbonyl)-amino]-3-phenylmethanesulfonyl-propionic acid (50 mg, 0. 14 mmol), N-(3-amino-2-hydroxy-propyl)-benzenesulfonamide TFA salt (60 mg, 0.17 mmol), EDC (100 mg, 0.52 mmol), and HOBt (100 mg, 0.64 mmol) were combined. DMF (3 mL) was added and then 4-methylmorpholine (0.3 mL). The mixture was stirred at ambient temperature for 3 hours. After dilution with ethyl acetate (100 mL) the solution was washed with 1N HCl, saturated aqueous NaHCO3 and brine, dried with MgSO4 and evaporated under vacuum. The residue was dissolved in acetone (5 mL). Jones reagent was added until the orange color persisted. The mixture was stirred for 2 hours, quenched with isopropanol, and diluted with ethyl acetate (100 mL). The solution was washed with water, saturated aqueous NaHCO3 and brine, dried with MgSO4 and evaporated under vacuum. The crude product was recrystallized from ethyl acetate/diethyl ether to give morpholine-4-carboxylic acid [1-(3-benzenesulfonylamino-2-oxo-propylcarbamoyl)-2-phenylmethanesulfonyl-ethyl]-amide as white solid (19 mg); 1H NMR: (DMSO) 8.17 (t, J=5.7 Hz, 1H), 7.93 (t, J=5.9 Hz, 1H), 7.76–7.48 (m, 5H), 7.36–7.29 (m, 5H), 7.05 (d, J=8.1 Hz, 1H), 4.68–4.59 (m, 1H), 4.45 (s, 2H), 3.89 (d, J=5.7 Hz, 2H), 3.79–3,75 (m, 2H), 3.56–3.22 (m, 10H); MS: (M+H)+ 567.

reactant | 2-[(Morpholine-4-carbonyl)-amino]-3-phenylmethanesulfonyl-propionic acid | 14 mmol, 50 mg | N1(CCOCC1)C(=O)NC(C(=O)O)CS(=O)(=O)CC1=CC=CC=C1 | C15H20N2O6S
reactant | N-(3-amino-2-hydroxy-propyl)-benzenesulfonamide TFA salt | 0.17 mmol, 60 mg | OC(=O)C(F)(F)F.NCC(CNS(=O)(=O)C1=CC=CC=C1)O
reactant | EDC | 0.52 mmol, 100 mg
reactant | HOBt | 0.64 mmol, 100 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-methylmorpholine | 0.3 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | morpholine-4-carboxylic acid [1-(3-benzenesulfonylamino-2-oxo-propylcarbamoyl)-2-phenylmethanesulfonyl-ethyl]-amide | 19 mg | C1(=CC=CC=C1)S(=O)(=O)NCC(CNC(=O)C(CS(=O)(=O)CC1=CC=CC=C1)NC(=O)N1CCOCC1)=O | C24H30N4O8S2
